US08530475B2
Z-(1R,6R)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene
7-Naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione (130 mg, 0.45 mmol) and DiBAl-H (6 mL, 1M, 6 mmol) were placed in a μW tube under argon vent. The reaction mixture was then heated to 130° C. for 900 sec. The reaction was quenched with Rochelle's salt and diethyl ether mixture (1:1, 200 mL) and then stirred overnight. The organic eas layer separated and dried with magnesium sulfate, filtered and solvent evaporated under reduced pressure to yield the title compound as a residue.

reactant | 7-Naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione | 0.45 mmol, 130 mg | C1=C(C=CC2=CC=CC=C12)N1C2CC=CCC(C1=O)NC2=O | C18H16N2O2
reactant | DiBAl-H | 6 mmol, 1M, 6 mL | CC(C)C[AlH]CC(C)C
product | Z-(1R,6R)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | C1=C(C=CC2=CC=CC=C12)N1[C@@H]2C\C=C/C[C@H](C1)NC2 | C18H20N2
